US05449812
g) N-tert-Butyl-2-methoxycarbonyl-5-methylaminobenzenesulfonamide
9.92 g (0.032 mol) of N-tert-butyl-5-formylamino-2-methoxycarbonylbenzenesulfonamide are dissolved in 50 ml of CHCl3, and then 5 ml (0.053 mol) of boranedimethyl sulfide complex are added at 0° C. After 1 h at 0° C. and 3 h at room temperature the reaction mixture is cooled to 0° C. 30 ml of methanol are added and the mixture is washed with water. The organic phase is dried over magnesium sulfate, the solvent is removed by distillation, and 9.23 g (98% of theory) of N-tert-butyl-2-methoxycarbonyl-5-methylaminobenzenesulfonamide are obtained. m.p.: 120°-124° C.

reactant | N-tert-butyl-5-formylamino-2-methoxycarbonylbenzenesulfonamide | 0.032 mol, 9.92 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)NC=O)C(=O)OC | C13H18N2O5S
reactant | methanol | 30 ml | CO | CH4O
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-tert-Butyl-2-methoxycarbonyl-5-methylaminobenzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)NC)C(=O)OC | C13H20N2O4S
